US05101047
This is contradicted by investigations by A. Courtin, H. -R. von Tobel and G. Auerbach, Helv. Chim. Acta 63, 1412 (1980), according to which, on heating of 1 mol of 2-nitrobenzenesulfinic acid, 2 mol of bromoacetic acid and 2 mol of sodium hydroxide solution under reflux conditions for 24 hours, only methyl 2-nitrophenyl sulfone is obtained in 91% yield. Evidently, the carboxymethyl aryl sulfone forming is immediately decarboxylated to the methyl aryl sulfone under the acidic reaction conditions.

reactant | 2-nitrobenzenesulfinic acid | 1 mol | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)O | C6H5NO4S
reactant | bromoacetic acid | 2 mol | BrCC(=O)O | C2H3BrO2
reactant | sodium hydroxide | 2 mol | [OH-].[Na+]
product | methyl 2-nitrophenyl sulfone | 91% yield | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)C | C7H7NO4S
